US07666864B2
N-{3-[2-Fluoro-4′-(2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazol-2-ylmethoxy)-biphenyl-4-yl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
To an oven dried round bottom flask was charged N-{3-[3-Fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (78 mg, 0.2 mmol), 2-(4-Bromo-phenoxymethyl)-2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazole (prepared similarly as described by Sasaki, H. et al: Journal of Medicinal Chemistry (2006), 49(26), 7854-7860; 71 mg, 0.2 mmol), Ph(PPh3)4 (23 mg, 0.02 mmol) and K2CO3 (55 mg, 0.4 mmol). The flask was flushed with nitrogen and was added 3 mL degassed DMF/H2O (10/1, v/v). The resulting mixture was stirred at 80° C. for 3 hours before it was cooled down and partitioned into 50 mL EtOAc/50 mL water. The organic layer was washed with brine and dried over Na2SO4, concentrated, and purified by column chromatography (CH2Cl2/MeOH, v/v, 20:1 to 10:1) gave the titled compound (70 mg) as off-white solid. ESI MS m/z 526 (M+H). 1H NMR (400 MHz, CD3OD) δ 7.86 (s, 1H), 7.52-7.59 (m, 1H), 7.45-7.52 (m, 3H), 7.32-7.38 (m, 1H), 6.96-7.02 (m, 2H), 4.76-4.84 (m, 1H), 4.51 (d, J=6.8 Hz, 1H), 4.38 (d, J=6.8 Hz, 1H), 4.27 (d, J=6.8 Hz, 1H), 4.18 (d, J=6.8 Hz, 1H), 3.89 (s, 1H), 3.83 (dd, J=6.8, 9.2 Hz, 1H), 3.55-3.59 (m, 2H), 1.96 (s, 3H), 1.77 (s, 3H).

reactant | N-{3-[3-Fluoro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 0.2 mmol, 78 mg | FC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)N1C(OC(C1)CNC(C)=O)=O | C18H24BFN2O5
reactant | 2-(4-Bromo-phenoxymethyl)-2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazole | BrC1=CC=C(OCC2(CN3C(O2)=NC(=C3)[N+](=O)[O-])C)C=C1 | C13H12BrN3O4
reactant | K2CO3 | 0.4 mmol, 55 mg | C(=O)([O-])[O-].[K+].[K+]
product | N-{3-[2-Fluoro-4′-(2-methyl-6-nitro-2,3-dihydro-imidazo[2,1-b]oxazol-2-ylmethoxy)-biphenyl-4-yl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 70 mg | FC1=C(C=CC(=C1)N1C(OC(C1)CNC(C)=O)=O)C1=CC=C(C=C1)OCC1(CN2C(O1)=NC(=C2)[N+](=O)[O-])C | C25H24FN5O7
